US09079853B2
5-methyl-1-phenethylindoline-2,3-dione
Was prepared in an analogous manner to 1-propylindoline-2,3-dione using 5-methyl isatin (purchased from Fisher Scientific) and 2-phenethyl bromide (purchased from Fisher Scientific).

reactant | 1-propylindoline-2,3-dione | C(CC)N1C(C(C2=CC=CC=C12)=O)=O | C11H11NO2
reactant | 5-methyl isatin | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | 2-phenethyl bromide | C1=CC=C(C=C1)CCBr | C8H9Br
product | 5-methyl-1-phenethylindoline-2,3-dione | CC=1C=C2C(C(N(C2=CC1)CCC1=CC=CC=C1)=O)=O | C17H15NO2
